US04431793
PREPARATION A--Chain Terminated Bisphenol-A Polycarbonate--Resin Preparation
A 1000 ml four neck flask was fitted with a mechanical stirrer, a pH probe, aqueous caustic inlet tube and a Claisen adapter to which was attached a dry ice condenser and a gas inlet tube. To the flask was added 280 ml water, 340 ml methylene chloride, 1.4 ml triethyl amine (0.01 mole) and 57 g (0.25 mole) bisphenol-A. With stirring the pH was raised to 10 by addition of 25% aqueous sodium hydroxide, then 0.00925 mole (3.7 mole%) based upon mole of BPA of the acid or acid chloride end-capping agent was added. Phosgene was introduced into the flask at 1 g/min for 30 minutes (0.3 mole) with pH maintained at 9.5 to 11.5. The pH was adjusted to 11 at the end of the reaction. The resin layer was separated from the brine layer, then washed with 3 wt. % aqueous HCl until washing remained acidic, then twice with distilled water. The resin was then precipitated into 1500 ml of methanol in a Waring blender and washed with 500 ml more methanol.

reactant | triethyl amine | 0.01 mole, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | bisphenol-A | 0.25 mole, 57 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | BPA | CC(C)(C=1C=CC(=CC1)O)C=2C=CC(=CC2)O | C15H16O2
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
solvent | methylene chloride | 340 ml | C(Cl)Cl | CH2Cl2
solvent | water | 280 ml | O | H2O
product | Bisphenol-A Polycarbonate | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C(=O)(O)O | InChI=1S/C15H16O2.CH2O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2-1(3)4/h3-10,16-17H,1-2H3;(H2,2,3,4)
